US04452783
4-Allyloxy-3-chloro-phenylacetyl-(L)-phenylalanyl-(L)-phenylalanine
4-Allyloxy-3-chloro-phenylacetyl-(L)-phenylalanyl-(L)-phenylalanine methyl ester (5.3 g) was suspended in acetone (40 ml) to which was added aqueous sodium hydroxide (1 M, 20.0 ml) and the whole was heated to effect solution. After the solution had been cooled to 0° C., the pH was adjusted to 2-3 using aqueous hydrochloric acid (3 M) and the whole was extracted with ethyl acetate (80 ml). The extract was dried (anhydrous sodium sulphate) and the solvent was evaporated at reduced pressure to leave a small volume of material. Light petroleum (b.p. 80°-100° C.) was added to precipitate the solid (3.5 g) of m.p. 180°-186° C. After recrystallisation from ethyl acetate/light petroleum (b.p. 80°-100° C.), the above-named product (2.7 g), m.p. 183°-186° C., was obtained.

reactant | 4-Allyloxy-3-chloro-phenylacetyl-(L)-phenylalanyl-(L)-phenylalanine methyl ester | 5.3 g | COC([C@@H](NC([C@@H](NC(CC1=CC=CC=C1)=O)CC1=CC(=C(C=C1)OCC=C)Cl)=O)CC1=CC=CC=C1)=O | C30H31ClN2O5
reactant | sodium hydroxide | 1 M, 20.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 3 M | Cl | ClH
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 4-Allyloxy-3-chloro-phenylacetyl-(L)-phenylalanyl-(L)-phenylalanine | 2.7 g | C(C=C)OC1=C(C=C(C[C@H](NC(CC2=CC=CC=C2)=O)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1)Cl | C29H29ClN2O5
